US04317820
19.5 g of 8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid and 35.5 g of piperazine were added to 350 ml of anhydrous dimethyl sulfoxide and the mixture was heated on an oil bath at 170° to 180° C. for 6 hours while stirring. Treatment of the reaction mixture in the same manner as in Reference Example 25 gave 5.3 g of 8-(1-piperazinyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride as white amorphous crystals having a melting point of 300° C. or more.

reactant | 8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 19.5 g | ClC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C14H12ClNO3
reactant | piperazine | 35.5 g | N1CCNCC1 | C4H10N2
solvent | dimethyl sulfoxide | 350 ml | CS(=O)C | C2H6OS
product | 8-(1-piperazinyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride | 5.3 g | Cl.N1(CCNCC1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | InChI=1S/C18H21N3O3.ClH/c1-11-2-3-12-15(20-8-6-19-7-9-20)5-4-13-16(12)21(11)10-14(17(13)22)18(23)24;/h4-5,10-11,19H,2-3,6-9H2,1H3,(H,23,24);1H
